US05364871
A mixture of 2-(diaminomethyleneamino)-4-[6-(imino)(methoxy)methylpyridin-2-yl]thiazole (4.0 g) and cyanamide (1.2 g) in methanol (80 ml) was stirred for 16 hours at ambient temperature. To the mixture was added a diethyl ether (80 ml) and isolated precipitate was collected by filtration. The precipitate was added to a mixture of ethyl acetate and water and adjusted to pH 9.5 with 20% aqueous potassium carbonate. The precipitate was collected by filtration and recrystallized from a mixture of N,N-dimethylformamide and ethyl acetate to give 4-[6-(amino)(cyanoimino)methylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole (3.04 g).

reactant | 2-(diaminomethyleneamino)-4-[6-(imino)(methoxy)methylpyridin-2-yl]thiazole | 4.0 g | NC(N)=NC=1SC=C(N1)C=1NC(C=CC1COC)=N | C11H14N6OS
reactant | cyanamide | 1.2 g | N#CN | CH2N2
reactant | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | methanol | 80 ml | CO | CH4O
product | 4-[6-(amino)(cyanoimino)methylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole | 3.04 g | NC1=CC=C(C(=N1)C=1N=C(SC1)N=C(N)N)C=NC#N | C11H10N8S
